US06107342
To a solution of (1S,2R,3R,5R,6S)-2-Azido-3-hydroxy-bicyclo [3.1.0] hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (VII-1) (960 mg, 2.78 mmol) in DCM (18 mL) was added PCC (2.40 g, 50% on silica gel) at 0° C. and stirring was continued at 23° C. for 20 h. The reaction mixture was placed on a silica gel column and the product was eluted with DCM to yield (1S,2R,5R,6S)-2-azido-3-oxo- bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (IX-1) (746 mg, 78%) as a white solid. 1H-NMR (250 MHz, CDCl3) □1.27 (3H, t, J=7.2 Hz), 1.62 (1H, t,J=3.4 Hz), 2.29 (1H, m), 2.44 (1H, dd,J=7.7, 3.1 Hz), 2.55 (1H, d, J=19.2 Hz), 2.98 (1H, dd, J=19.2, 5.6 Hz), 4.13 (2H, q, J=7.2 Hz), 5.29 (2H, s), 7.36-7.40 (5H, m); MS[ISP]361 (M+NH4+); mp 46-48° C.; □D20 +210.910 (c=1.07, CHCl3).

reactant | (1S,2R,3R,5R,6S)-2-Azido-3-hydroxy-bicyclo [3.1.0] hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 2.78 mmol, 960 mg | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])O | C17H19N3O5
reactant | PCC | 2.40 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | (1S,2R,5R,6S)-2-azido-3-oxo- bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 746 mg, 78% | C(C)OC(=O)[C@H]1[C@@H]2CC([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])=O | C17H17N3O5
